US09334290B2
A mixture of N-(3-bromo-2-methylphenyl)-2-(3-fluoropyridin-2-yl)acetamide (4.20 g, 13.6 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.80 g, 14.9 mmol) in dioxane (40 mL) was bubbled with nitrogen for 10 min. Potassium acetate (3.33 g, 34.0 mmol) was added to the mixture, bubbling was continued for another 5 min, and PdCl2(dppf) DCM adduct (0.555 g, 0.679 mmol) was added. The mixture was heated at 100° C. overnight. The cooled mixture was diluted with EtOAc, washed sequentially with water and brine, dried and concentrated. The residue was purified by column chromatography on silica gel, eluting with DCM-methyl t-butyl ether, to provide 2-(3-fluoropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide as a white solid (3.80 g, 76% yield). Mass spectrum m/z 371 (M+H)+.

reactant | N-(3-bromo-2-methylphenyl)-2-(3-fluoropyridin-2-yl)acetamide | 13.6 mmol, 4.20 g | BrC=1C(=C(C=CC1)NC(CC1=NC=CC=C1F)=O)C | C14H12BrFN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 14.9 mmol, 3.80 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Potassium acetate | 34.0 mmol, 3.33 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.679 mmol, 0.555 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(3-fluoropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 3.80 g, 76% yield | FC=1C(=NC=CC1)CC(=O)NC1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H24BFN2O3
